US07355069B2
b) Methyl 2-[(4-{2-[benzyl(hexyl)amino]-2-oxoethyl}phenoxy)methyl]benzoate
(4-{[2-(Methoxycarbonyl)benzyl]oxy}phenyl)acetic acid (50 mg, 0.166 mmol) was dissolved in DCM (2 ml), N-hexylbenzylamine (38.2 mg, 0.2 mmol) was added, then EDC (38.3 mg, 0.2 mmol) was added and then DMAP (24.4 mg, 0.2 mmol) was added. The mixture was stirred at room temperature overnight. 1% HCl (1 ml) and water (1 ml) were added into the mixture. The two phases were separated by using a Whatman Filter Tube. The obtained organic solution was evaporated in vacuum and the oil product (71 mg) was left. It was then used directly in next step.

reactant | (4-{[2-(Methoxycarbonyl)benzyl]oxy}phenyl)acetic acid | 0.166 mmol, 50 mg | COC(=O)C1=C(COC2=CC=C(C=C2)CC(=O)O)C=CC=C1 | C17H16O5
reactant | N-hexylbenzylamine | 0.2 mmol, 38.2 mg | C(CCCCC)NCC1=CC=CC=C1 | C13H21N
reactant | EDC | 0.2 mmol, 38.3 mg
reactant | HCl | 1 ml | Cl | ClH
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.2 mmol, 24.4 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | 1 ml | O | H2O
product | Methyl 2-[(4-{2-[benzyl(hexyl)amino]-2-oxoethyl}phenoxy)methyl]benzoate | C(C1=CC=CC=C1)N(C(CC1=CC=C(OCC2=C(C(=O)OC)C=CC=C2)C=C1)=O)CCCCCC | C30H35NO4
